US08865675B2
Synthesis of (6R,8Z,27Z,30Z)-6-hydroxyhexatriaconta-8,27,30-trien-18-yl 4-(dimethylamino)butanoate (Compound 26)
A solution of (6R,8Z,27Z,30Z)-6-(tert-butyldiphenylsilyloxy)hexatriaconta-8,27,30-trien-18-yl 4-(dimethylamino)butanoate (800 mg, 0.95 mmol) in the saturated HCl(g)/MeOH (50 mL) was stirred for 10 minutes. The starting material did not dissolve so anhydrous DCM (12 mL) was added, and the mixture was stirred for 30 minutes. Upon completion, the solution was concentrated in vacuo, saturated sodium bicarbonate (75 mL) was added, and the solution was extracted with ethyl acetate (3×100 mL). The combined ethyl acetate extracts were washed with brine (100 mL), dried on magnesium sulfate, filtered and concentrated in vacuo to dryness. The residue was purified by column chromatography (100% ethyl acetate) to afford the title compound as a colorless oil (0.228 g, 39%). 1H NMR (400 MHz, CDCl3): δ5.61-5.52 (m, 1H), 5.45-5.29 (m, 4H), 4.91-4.83 (m, 1H), 3.66-3.58 (m, 1H), 2.81-235 (m, 2H), 2.75-2.44 (m, 7H), 2.42-2.36 (m, 2H), 2.24-2.18 (m, 2H), 2.10-1.93 (m, 7H), 1.56-1.41 (m, 6H), 1.40-1.20 (m, 36H), 0.93-0.85 (m, 6H).

reactant | (6R,8Z,27Z,30Z)-6-(tert-butyldiphenylsilyloxy)hexatriaconta-8,27,30-trien-18-yl 4-(dimethylamino)butanoate | 0.95 mmol, 800 mg | CN(CCCC(=O)OC(CCCCCCCC\C=C/C[C@@H](CCCCC)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CCCCCCCC\C=C/C\C=C/CCCCC)C | C58H97NO3Si
reactant | MeOH | 50 mL | CO | CH4O
reactant | DCM | 12 mL | C(Cl)Cl | CH2Cl2
solvent | HCl | Cl | ClH
product | (6R,8Z,27Z,30Z)-6-hydroxyhexatriaconta-8,27,30-trien-18-yl 4-(dimethylamino)butanoate | 0.228 g, 39% | CN(CCCC(=O)OC(CCCCCCCC\C=C/C[C@@H](CCCCC)O)CCCCCCCC\C=C/C\C=C/CCCCC)C | C42H79NO3
